US07645789B2
To a solution of 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(2-chloroethyl)indolin-5-yl)cyclopropanecarboxamide (66 mg, 0.15 mmol) in ethanol (0.8 mL) and water (0.4 mL) were added NaCN (22 mg, 0.45 mmol) and KI (cat) at room temperature. The reaction mixture was stirred for 30 min at 110° C. in the microwave before being purified by column chromatography on silica gel (5-15% ethyl acetate/hexanes) to provide 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(2-cyano-ethyl)indolin-5-yl)cyclopropanecarboxamide (50 mg, 77%).

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(2-chloroethyl)indolin-5-yl)cyclopropanecarboxamide | 0.15 mmol, 66 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1CC(N(C1=CC2)CCCl)C(C)(C)C | C25H29ClN2O3
reactant | NaCN | 0.45 mmol, 22 mg | [C-]#N.[Na+]
solvent | ethanol | 0.8 mL | C(C)O | C2H6O
solvent | water | 0.4 mL | O | H2O
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(2-cyano-ethyl)indolin-5-yl)cyclopropanecarboxamide | 50 mg, 77% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1CC(N(C1=CC2)CCC#N)C(C)(C)C | C26H29N3O3
